US07101886B2
N-{4-[2-(4-1,2-BENZISOTHIAZOL-3-YL-PIPERAZIN-1-YL)-ETHYL]-PHENYL}-ACETAMIDE
A round bottomed flask was charged with 0.528 g (1.5 mmol) (0.2-[2-(4-1,2-benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-phenylamine, 6.2 mL CH2Cl2, 0.26 mL (1.8 mmol) triethylamine, and 0.15 mL (2 mmol) acetyl chloride. After 17 h at rt, the reaction was quenched with 1M NaHCO3. The organic layer was separated, dried, and concentrated in vacuo to give a white foam. This white foam was triturated with ether to give 0.36 g (61% yield) of the desired material as a white solid. MS (APCI): 381 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 7.89 (d, J=8 Hz, 1H), 7.9 (d, J=8 Hz, 1H), 7.47–7.24 (m, 4H), 7.18–7.14 (m, 3H), 3.59–3.56 (m, 4H), 2.84–2.63 (m, 8H), 2.15 (s, 3H).

reactant | 2-[2-(4-1,2-benzisothiazol-3-yl-piperazin-1-yl)-ethyl]-phenylamine | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=C(C=CC=C2)N | C19H22N4S
reactant | triethylamine | 1.8 mmol, 0.26 mL | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 2 mmol, 0.15 mL | C(C)(=O)Cl | C2H3ClO
solvent | CH2Cl2 | 6.2 mL | C(Cl)Cl | CH2Cl2
product | N-{4-[2-(4-1,2-BENZISOTHIAZOL-3-YL-PIPERAZIN-1-YL)-ETHYL]-PHENYL}-ACETAMIDE | 0.36 g, 61% yield | S1N=C(C2=C1C=CC=C2)N2CCN(CC2)CCC2=CC=C(C=C2)NC(C)=O | C21H24N4OS
